US09228150B2
Preparation of Zinc Di-n-Octyldithiocarbamate (FC-577-240)
To a 250 mL round bottomed flask was placed 48.40 g of di-n-octylamine and 8.10 g of zinc oxide. Carbon disulfide, 16.0 g, was then added dropwise, and the mixture was stirred for 30 minutes. The flask was then stirred and heated for 2 hours at 70° C., and then stirred for an addition 2 hours at 90° C. A vacuum was then applied to remove water of reaction and the temperature was increased to 130° C., and the reaction was maintained in this state for 3 hours. The pale yellow material was then filtered through Celite at 120° C., to give, upon a pale yellow liquid with a Zn content of 8.1%.

reactant | di-n-octylamine | 48.40 g | C(CCCCCCC)NCCCCCCCC | C16H35N
reactant | zinc oxide | 8.10 g | [O-2].[Zn+2]
reactant | Carbon disulfide | C(=S)=S | CS2
product | Zinc Di-n-Octyldithiocarbamate | C(CCCCCCC)N(C([S-])=S)CCCCCCCC.[Zn+2].C(CCCCCCC)N(C([S-])=S)CCCCCCCC | InChI=1S/2C17H35NS2.Zn/c2*1-3-5-7-9-11-13-15-18(17(19)20)16-14-12-10-8-6-4-2;/h2*3-16H2,1-2H3,(H,19,20);/q;;+2/p-2
